US09353107B2
Step-ii: N-(5-(3-(1-(3,5-difluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-fluorophenyl)methanesulfonamide
Using similar reaction conditions as described in step-ii of example-7, tert-butyl 5-(3-(N-(tert-butoxycarbonyl)methylsulfonamido)-4-fluorophenyl)-3-(1-(3,5-difluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridine-1-carboxylate (88 mg, 0.121 mmol) was deprotected in HCl in dioxane/MeOH (5/2 ml). This afforded 27 mg (35% yield) of the titled compound. 1H NMR (CDCl3, 300 MHz): δ 13.6 (s, 1H), 8.42 (s, 1H), 8.26 (s, 1H), 7.80-7.77 (d, 1H), 7.50 (s, 1H), 7.33-7.32 (m, 2H), 6.79-6.69 (m, 4H), 5.33 (s, 2H), 3.09 (s, 3H), 2.24 (s, 3H), 2.18 (s, 3H). MS: m/z=526.2 (M+1), HPLC: 94.82% in method B.

reactant | tert-butyl 5-(3-(N-(tert-butoxycarbonyl)methylsulfonamido)-4-fluorophenyl)-3-(1-(3,5-difluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridine-1-carboxylate | 0.121 mmol, 88 mg | C(C)(C)(C)OC(=O)N(S(=O)(=O)C)C=1C=C(C=CC1F)C=1C=C2C(=NC1)N(C=C2C=2C(=NN(C2C)CC2=CC(=CC(=C2)F)F)C)C(=O)OC(C)(C)C | C36H38F3N5O6S
solvent | HCl | Cl | ClH
solvent | dioxane MeOH | 2 ml | O1CCOCC1.CO
product | N-(5-(3-(1-(3,5-difluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-fluorophenyl)methanesulfonamide | 27 mg, 35% yield | FC=1C=C(CN2N=C(C(=C2C)C2=CNC3=NC=C(C=C32)C=3C=CC(=C(C3)NS(=O)(=O)C)F)C)C=C(C1)F | C26H22F3N5O2S
